US08791119B2
To a solution, at 0° C., of 0.120 g (3.51 mmol) of 3-(tert-butyldiphenylsilanoxy)-2,2-dimethylpropylamine in 25 ml of dichloromethane are added dropwise 1.42 g (7.03 mmol) of 4-nitrophenyl chloroformate (CAS 7693-46-1) dissolved in 5 ml of dichloromethane. 0.63 ml (3.5 mmol) of diisopropylethylamine is then added. Stirring is continued at 0° C. for 45 minutes, and the temperature of the mixture is then allowed to return to 0° C. over 1 hour. 20 ml of saturated aqueous sodium hydrogen carbonate solution are then added. The organic phase is separated out on a hydrophobic filter cartridge and the solvent is partially evaporated off under reduced pressure to a volume of about 8 ml. This solution is chromatographed on a column of silica gel, eluting with a mixture of 5 to 40% ethyl acetate in cyclohexane, to give 0.21 g of 4-nitrophenyl 3-(tert-butyldiphenylsilanoxy)-2,2-dimethylpropylcarbamate in the form of an oil.

reactant | 3-(tert-butyldiphenylsilanoxy)-2,2-dimethylpropylamine | 3.51 mmol, 0.120 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC(CN)(C)C | C21H31NOSi
reactant | 4-nitrophenyl chloroformate | 7.03 mmol, 1.42 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropylethylamine | 3.5 mmol, 0.63 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium hydrogen carbonate | 20 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-nitrophenyl 3-(tert-butyldiphenylsilanoxy)-2,2-dimethylpropylcarbamate | 0.21 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC(CNC(OC1=CC=C(C=C1)[N+](=O)[O-])=O)(C)C | C28H34N2O5Si
